US09062039B2
Preparation of 3-(5-Fluoro-4-(4-methyl-2-(methylamino)thiazol-5-yl)pyrimidin-2-ylamino)benzene sulfonamide (CDKI-73)
A mixture of (Z)-3-(dimethylamino)-2-fluoro-1-(4-methyl-2-(methylamino)thiazol-5-yl)prop-2-en-1-one (1 mmol) and 3-guanidinobenzenesulfonamide (2 mmol) in 2.5 mL 2-methoxylethanol was heated at 140° C. for 45 minutes under microwave radiation. The mixture was purified by column chromatography using EtOAc/PE or EtOAc/MeOH to yield the titled compound as yellow solid.

reactant | (Z)-3-(dimethylamino)-2-fluoro-1-(4-methyl-2-(methylamino)thiazol-5-yl)prop-2-en-1-one | 1 mmol | CN(\C=C(\C(=O)C1=C(N=C(S1)NC)C)/F)C | C10H14FN3OS
reactant | 3-guanidinobenzenesulfonamide | 2 mmol | N(C(=N)N)C=1C=C(C=CC1)S(=O)(=O)N | C7H10N4O2S
solvent | 2-methoxylethanol | 2.5 mL | O(C)CCO | C3H8O2
product | 3-(5-Fluoro-4-(4-methyl-2-(methylamino)thiazol-5-yl)pyrimidin-2-ylamino)benzene sulfonamide | FC=1C(=NC(=NC1)NC=1C=C(C=CC1)S(=O)(=O)N)C1=C(N=C(S1)NC)C | C15H15FN6O2S2
